US04088770
Preparation of 2-[4-(trifluoromethyl)anilino]benzoxazole
To a solution of 15.4 g. (0.1 mole) of 2-chlorobenzoxazole in 200 ml. of tetrahydrofuran was added dropwise a solution of 16.1 g. (0.1 mole) of p-aminobenzotrifluoride in 100 ml. of tetrahydrofuran with vigorous agitation. Following the addition, the reaction mixture was heated on a steam bath under reflux for 16 hours. Then the reaction mixture was cooled to about 25° C., and about 500 ml. of water was added. The tetrahydrofuran solvent was removed by distillation under vacuum, leaving an aqueous slurry of the reaction product. The solids were filtered off and dried. The dried residue was dissolved in a minimum amount of warm benzene. Then about 200 ml. of hexane was added to the benzene solution to crystallize the reaction product. The crystals were filtered off and dried, yielding 19.2 g. of 2-[4-trifluoromethyl)anilino]benzoxazole having a melting point of 180°-182° C.

reactant | 2-chlorobenzoxazole | 0.1 mole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | p-aminobenzotrifluoride | 0.1 mole | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | benzoxazole | O1C=NC2=C1C=CC=C2 | C7H5NO
solvent | water | O | H2O
product | 2-[4-(trifluoromethyl)anilino]benzoxazole | FC(C1=CC=C(NC=2OC3=C(N2)C=CC=C3)C=C1)(F)F | C14H9F3N2O
